US09233962B2
Intermediate 44: 9-(4-Chlorobutyl)-8-(methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-9H-purin-6-amine
Prepared similarly to Intermediate 18 from 8-(methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-1H-purin-6-amine trifluoroacetate and 1-bromo-4-chlorobutane with purification on an aminopropyl (NH2) cartridge using a 0-100% ethyl acetate-cyclohexane gradient.

reactant | 8-(methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.COC=1N=C2N=C(NC(=C2N1)N)O[C@H](CC)C
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
product | 9-(4-Chlorobutyl)-8-(methyloxy)-2-{[(1S)-1-methylpropyl]oxy}-9H-purin-6-amine | ClCCCCN1C2=NC(=NC(=C2N=C1OC)N)O[C@H](CC)C | C14H22ClN5O2
